US04565878
In a comparative example anhydrous gaseous methylamine was bubbled through a mixture of diethyl acetone dicarboxylate and chloroacetone in methylene chloride for about five minutes while the temperature rose from 25 to about 40° C. After reaction for one-half hour, water was added and the reaction mixture was heated to 90° C. for about one-half hour. Extraction with chloroform gave a dark oil containing 23 percent yield of desired ethyl 1,4-dimethyl-3-ethoxycarbonylpyrrole-2-acetate.

reactant | methylamine | CN | CH5N
reactant | diethyl acetone dicarboxylate | CCOC(=O)CC(=O)CC(=O)OCC | C9H14O5
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
reactant | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | ethyl 1,4-dimethyl-3-ethoxycarbonylpyrrole-2-acetate | 23 percent yield | CN1C(=C(C(=C1)C)C(=O)OCC)CC(=O)OCC | C13H19NO4
